US09328111B2
Step 2: Methyl 3-fluoro-11-oxo-6,7,8,9,10,11-hexahydro-5H-cyclohepta[b]quinoline-1-carboxylate
A mixture of methyl 2-oxocycloheptanecarboxylate (0.34 g, 2 mmol), methyl 3-amino-5-fluorobenzoate (0.33 g, 2 mmol), polyphosphoric acid (4.0 g) and dioxane (5 mL) was heated at 130° C. for 5 hours. After cooling to room temperature, the solution was diluted with water (100 mL), and NaOAc.3H2O (7.3 g) was added. Then the resulting precipitate was collected by filtration and dried. The solid was suspended in methanol (20 mL) and SOCl2 (10 mL) was added, the mixture was stirred at reflux for 5 hours, concentrated and treated with water (50 mL), extracted with ethyl acetate (3×50 mL). The organic layer was separated, concentrated and the residue was chromatographed to give the crude product (0.62 g). MS (ESI) m/e [M+1]+290.0.

reactant | methyl 2-oxocycloheptanecarboxylate | 2 mmol, 0.34 g | O=C1C(CCCCC1)C(=O)OC | C9H14O3
reactant | methyl 3-amino-5-fluorobenzoate | 2 mmol, 0.33 g | NC=1C=C(C(=O)OC)C=C(C1)F | C8H8FNO2
reactant | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
product | Methyl 3-fluoro-11-oxo-6,7,8,9,10,11-hexahydro-5H-cyclohepta[b]quinoline-1-carboxylate | 0.62 g | FC=1C=C(C=2C(C3=C(NC2C1)CCCCC3)=O)C(=O)OC | C16H16FNO3
